US07491716B2
Benzo[b]thiophene-7-acetonitrile
Add Benzo[b]thiophene-7carboxaldehyde (2.34 g, 14.4 mmol) and lithium cyanide tetrahydrofuran complex (LiCN*1.5 Tetrahydrofuran, 204 mg, 1.44 mmol) to tetrahydrofuran (40 mL) under nitrogen. Add dropwise neat diethyl cyanophosphonate (2.8 mL, 18.4 mmol) to the stirring reaction mixture. Stir at room temp under nitrogen for 60 hours. Add 2-methyl-2-propanol (1.4 mL, 14.6 mmol). Add the reaction mixture via cannula to a stirred 0.1 molar solution of samarium(II) iodide in tetrahydrofuran (360 mL, 36.0 mmol) at 25° C. under nitrogen. If the resulting reaction mixture is not deep blue add al samarium(II) iodide solution until deep blue color persists. Stir the reaction at 25° C. for 1 hour. Concentrate under reduced pressure, dilute with ethyl acetate, diethyl ether (1:1), wash with aqueous 0.1 M hydrochloric acid, and aqueous saturated sodium chloride. Dry the organic phase over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure. Chromatograph on flash silica using a gradient from neat hexane to 25% ethyl acetate in hexane to obtain the title compound as an off-white solid.

reactant | Benzo[b]thiophene-7carboxaldehyde | 14.4 mmol, 2.34 g | S1C2=C(C=C1)C=CC=C2C=O | C9H6OS
reactant | lithium cyanide tetrahydrofuran | 1.44 mmol, 204 mg | O1CCCC1.[C-]#N.[Li+]
reactant | diethyl cyanophosphonate | 18.4 mmol, 2.8 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | 2-methyl-2-propanol | 14.6 mmol, 1.4 mL | CC(C)(C)O | C4H10O
reactant | samarium(II) iodide | [I-].[Sm+2].[I-]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 36.0 mmol, 360 mL | O1CCCC1 | C4H8O
product | Benzo[b]thiophene-7-acetonitrile | S1C2=C(C=C1)C=CC=C2CC#N | C10H7NS
